US05019578
(R)-α-[[(Cyclopentyl)amino]methyl]tetrazolo[1,5-a]pyridine 6-methanol
A solution of 250 mg (1.54 mmol) of (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane and 0.751 ml (7.61 mmol) of cyclopentyl amine in 0.6 ml of absolute ethanol was heated at 100° C. for 3 hours in a sealed reaction tube. The reaction mixture was concentrated to dryness and the residue (375 mg) purified by preparative Tlc on silica gel (90:10:2 ethyl acetate: methanol:triethylamine) to give 287 mg of pure product.

reactant | (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane | 1.54 mmol, 250 mg | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | cyclopentyl amine | 7.61 mmol, 0.751 ml | C1(CCCC1)N | C5H11N
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
product | (R)-α-[[(Cyclopentyl)amino]methyl]tetrazolo[1,5-a]pyridine 6-methanol | 287 mg | C1(CCCC1)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C12H17N5O
